US09376436B2
(2R,5S)-2-[4-(2-Fluoro-5-hydroxy-phenyl)-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]nonan-6-one (D134)
To a solution of (2R,5S)-2-(4-bromo-2-pyridyl)-7-methyl-1,7-diazaspiro[4.4]nonan-6-one (which may be prepared as described in Description 4) (140 mg, 0.4513 mmol) in MeCN (1.5 mL) and water (0.3000 mL) in a Smith microwave vessel was added (2-fluoro-5-hydroxy-phenyl)boronic acid (0.0774 g, 0.4965 mmol), bis(triphenylphosphine)palladium (II) dichloride (0.0095 g, 0.0135 mmol) and sodium carbonate (0.0957 g, 0.9027 mmol). The reaction vessel was sealed and purged with nitrogen. The reaction mixture was heated by microwave at 100° C. for 40 min. The reaction mixture was treated with water and was extracted with DCM twice and the organic layers were collected by passing down a PhaseSep cartridge. Evaporation of solvents gave an amber oil, It was further purified by silica gel chromatography (11 g KPNH silica cartridge) eluting with ethyl acetate in iso-hexane (20-100%) followed by methanol in ethyl acetate (0-18%) to give the desired product (2R,5S)-2-[4-(2-fluoro-5-hydroxy-phenyl)-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]nonan-6-one (D134) (0.1200 g, 0.3515 mmol, 77.9% yield) as cream solid;

reactant | (2R,5S)-2-(4-bromo-2-pyridyl)-7-methyl-1,7-diazaspiro[4.4]nonan-6-one | 0.4513 mmol, 140 mg | BrC1=CC(=NC=C1)[C@@H]1N[C@]2(CC1)C(N(CC2)C)=O | C13H16BrN3O
reactant | (2-fluoro-5-hydroxy-phenyl)boronic acid | 0.4965 mmol, 0.0774 g | FC1=C(C=C(C=C1)O)B(O)O | C6H6BFO3
reactant | sodium carbonate | 0.9027 mmol, 0.0957 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeCN | 1.5 mL | CC#N | C2H3N
solvent | water | 0.3000 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium | 0.0135 mmol, 0.0095 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | (2R,5S)-2-[4-(2-fluoro-5-hydroxy-phenyl)-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]nonan-6-one | 0.3515 mmol, 0.1200 g, 77.9% yield | FC1=C(C=C(C=C1)O)C1=CC(=NC=C1)[C@@H]1N[C@]2(CC1)C(N(CC2)C)=O | C19H20FN3O2
